US05126233
Phenacylpyridinium chloride was prepared by reacting 424 grams chloroacetophenone with 322 ml pyridine by dropwise adding the pyridine to the former in 1400 ml acetonitrile at 65° C. A crystalline mass was obtained which was heated to 70° C. and allowed to cool to 10° C., then filtered and washed with 500 ml acetonitrile. The dried product (626.5g) had a melting point of 203-206° C.

reactant | chloroacetophenone | 424 grams | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | pyridine | 322 ml | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 1400 ml | C(C)#N | C2H3N
product | Phenacylpyridinium chloride | [Cl-].C(C(=O)C1=CC=CC=C1)[N+]1=CC=CC=C1 | InChI=1S/C13H12NO.ClH/c15-13(12-7-3-1-4-8-12)11-14-9-5-2-6-10-14;/h1-10H,11H2;1H/q+1;/p-1
